US08349824B2
A mixture of tert-butyl 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate (356 mg, 1.11 mmol) and hydrochloric acid (6N in ether, 10 ml, 60.0 mmol) is stirred for 2 hours at 25° C. The solvent is removed in vacuo affording 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride (308 mg, 108%) as a light yellow solid. mp.: >250° C. MS: m/z=220.3 (M+H+).

reactant | tert-butyl 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamate | 1.11 mmol, 356 mg | O1CCN(CC1)C1=NN2C(C=C(C=C2)NC(OC(C)(C)C)=O)=N1 | C15H21N5O3
reactant | hydrochloric acid | 60.0 mmol, 6N, 10 ml | Cl | ClH
product | 2-morpholino-[1,2,4]triazolo[1,5-a]pyridin-7-amine hydrochloride | 308 mg, 108% | Cl.O1CCN(CC1)C1=NN2C(C=C(C=C2)N)=N1 | InChI=1S/C10H13N5O.ClH/c11-8-1-2-15-9(7-8)12-10(13-15)14-3-5-16-6-4-14;/h1-2,7H,3-6,11H2;1H
